* Sky130 PLL charge pump: current-steering, cascoded UP/DN branches,
* replica-matched bias network derived only from iref (25 uA in).
* XN d g s b sky130_fd_pr__nfet_01v8 l=0.5 w=8 nf=2
* XP d g s b sky130_fd_pr__pfet_01v8 l=0.5 w=16 nf=4
.subckt pll_charge_pump vss iref up dn vdd vout
*
* ---------- reference input: diode NMOS on iref (mirror master) ----------
XN0 iref iref vss vss sky130_fd_pr__nfet_01v8 l=6 w=84 nf=4
*
* ---------- B2: PMOS cascode bias vbpc (Pcb diode fed by N-mirror) ----------
XPCB vbpc vbpc vdd vdd sky130_fd_pr__pfet_01v8 l=3 w=27 nf=1
XN2 vbpc iref vss vss sky130_fd_pr__nfet_01v8 l=6 w=42 nf=2
*
* ---------- B3: NMOS cascode bias vbnc (Ncb diode fed from vbpc source) ----------
XP2X vbnc vbpc vdd vdd sky130_fd_pr__pfet_01v8 l=3 w=24 nf=1
XNCB vbnc vbnc vss vss sky130_fd_pr__nfet_01v8 l=6 w=3.9 nf=1
*
* ---------- B1: replica branch -> vbp (cascoded diode, matches main UP stack) ----------
XP0 n1a vbp vdd vdd sky130_fd_pr__pfet_01v8 l=3 w=150 nf=5
XPC0 vbp vbpc n1a vdd sky130_fd_pr__pfet_01v8 l=0.9 w=90 nf=3
XNC1 vbp vbnc n1b vss sky130_fd_pr__nfet_01v8 l=1.5 w=30 nf=2
XN1 n1b iref vss vss sky130_fd_pr__nfet_01v8 l=6 w=43.98 nf=2
*
* ---------- UP branch: PMOS mirror + cascode + steering pair ----------
XPM na vbp vdd vdd sky130_fd_pr__pfet_01v8 l=3 w=600 nf=20
XPC nc vbpc na vdd sky130_fd_pr__pfet_01v8 l=0.9 w=360 nf=12
XSUP vout upb nc vdd sky130_fd_pr__pfet_01v8 l=0.15 w=24 nf=3
XSDU wu upd nc vdd sky130_fd_pr__pfet_01v8 l=0.15 w=24 nf=3
XNWU wu wu vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=3.5 nf=1
*
* ---------- DN branch: NMOS mirror + cascode + steering pair ----------
XNM ne iref vss vss sky130_fd_pr__nfet_01v8 l=6 w=175.92 nf=8
XNC nd vbnc ne vss sky130_fd_pr__nfet_01v8 l=1.5 w=120 nf=8
XSDN vout dn nd vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=1
XSDD wd dnb nd vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=1
XNWD vdd vdd wd vss sky130_fd_pr__nfet_01v8 l=0.5 w=4.5 nf=1
*
* ---------- input inverters/buffers (up/dn drive gates only) ----------
XIP1 upb up vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=24 nf=3
XIN1 upb up vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=1
XIP2 upd upb vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=1
XIN2 upd upb vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=1
XIP3 dnb dn vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=24 nf=3
XIN3 dnb dn vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=0.6 nf=1
*
* ---------- bias filtering / node stiffening (no DC paths) ----------
CBP vbp vdd 1e-12
CBPC vbpc vdd 1e-12
CBNC vbnc vss 1e-12
CIR iref vss 0.8e-12
CWU wu vss 0.4e-12
CWD wd vdd 0.4e-12
CNC nc vss 40e-15
CND nd vss 30e-15
.ends pll_charge_pump
